US07439393B2
i) N-(3-{[2-({5-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]pentyl}oxy)ethoxy]methyl}phenyl)methanesulfonamide
A solution of (5R)-3-(5-{2-[(3-aminobenzyl)oxy]ethoxy}pentyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (52 mg) in pyridine (4 ml) was treated with methanesulfonyl chloride (13 mg) at 20° C. for 3 h. The mixture was quenched with sat. aqueous sodium bicarbonate (20 ml) and partitioned with DCM. The organic layer was dried (Na2SO4) and the solvent was removed in vacuo. The residue was purified using SPE eluting with DCM then EtOAc-PE (3:1). The selected fractions were evaporated in vacuo to yield the title compound (39 mg).

reactant | (5R)-3-(5-{2-[(3-aminobenzyl)oxy]ethoxy}pentyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 52 mg | NC=1C=C(COCCOCCCCCN2C(O[C@@H](C2)C2=CC3=C(OC(OC3)(C)C)C=C2)=O)C=CC1 | C27H36N2O6
reactant | methanesulfonyl chloride | 13 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-{[2-({5-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]pentyl}oxy)ethoxy]methyl}phenyl)methanesulfonamide | 39 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCOCCOCC=2C=C(C=CC2)NS(=O)(=O)C)C | C28H38N2O8S
